US04588732
Triethyl 2-phosphonopropionate (0.61 g) is added to a solution of lithium diisopropylamide (from 0.32 g of diisopropylamine and 1.7 ml of 1.64M n-butyllithium) in 20 ml of dry tetrahydrofuran at 0° under nitrogen. After stirring at 0° for 15 minutes 5-(p-formylphenethyl)-imidazo[1,5-a]pyridine (0.55 g) is added in 5 ml of tetrahydrofuran and the reaction mixture is stirred for 1 hour at 0° and 1 hour at 25° before quenching with 25 ml of water. The layers are separated and the organic phase is dried and evaporated. The resulting oil is redissolved in ethyl acetate and passed through a column of silica gel to remove the excess phosphonate and to yield 5-[p-(2-ethoxycarbonylprop-1-enyl)phenethyl]imidazo[1,5-a]pyridine.

reactant | Triethyl 2-phosphonopropionate | 0.61 g | CCOC(=O)C(C)P(=O)(OCC)OCC | C9H19O5P
reactant | lithium diisopropylamide | 1.64M, 1.7 ml, 0.32 g | C(C)(C)[N-]C(C)C.[Li+]
reactant | 5-(p-formylphenethyl)-imidazo[1,5-a]pyridine | 0.55 g | C(=O)C1=CC=C(CCC2=CC=CC=3N2C=NC3)C=C1 | C16H14N2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 5-[p-(2-ethoxycarbonylprop-1-enyl)phenethyl]imidazo[1,5-a]pyridine | C(C)OC(=O)C(=CC1=CC=C(CCC2=CC=CC=3N2C=NC3)C=C1)C | C21H22N2O2
